US07241791B2
Step 2: 4-[7-methyl-2-propyl-2H-indazol-3-yl]phenol
Prepared according to Method D step C from 3-(4-methoxyphenyl)-7-methyl-2-propyl-2H-indazole (0.014 g, 0.05 mmol), boron tribromide (0.050 mL, 1.0 mmol) and 0.2 mL of cyclohexene to give the product (0.007 g).

reactant | 3-(4-methoxyphenyl)-7-methyl-2-propyl-2H-indazole | 0.05 mmol, 0.014 g | COC1=CC=C(C=C1)C=1N(N=C2C(=CC=CC12)C)CCC | C18H20N2O
reactant | boron tribromide | 1.0 mmol, 0.050 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.2 mL | C1=CCCCC1 | C6H10
product | 4-[7-methyl-2-propyl-2H-indazol-3-yl]phenol | 0.007 g | CC1=CC=CC2=C(N(N=C12)CCC)C1=CC=C(C=C1)O | C17H18N2O
